US06320078B1
1.62 g (10 mmole) of N,N′-carbonyldiimidazole were added to a dimethyl sulfoxide (10 ml) solution including 1.12 g (10 mmole) of benzoic acid, followed by stirring at room temperature for 1 hour. After the addition of 2.16 g (20 mmole, 2 equivalents) of 1,2-phenylenediamine, 1.9 ml of trifluoroacetic acid were added dropwise at room temperature. After reaction had been further carried out at room temperature for 15 hours, a post-treatment was performed in the same manner as in Example 6 to obtain 1.27 g (yield: 59%) of N-(2-aminophenyl)benzamide.

reactant | benzoic acid | 10 mmole, 1.12 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 1,2-phenylenediamine | 20 mmole, 2.16 g, 2 equivalents | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | trifluoroacetic acid | 1.9 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | N-(2-aminophenyl)benzamide | 1.27 g, yield: 59% | NC1=C(C=CC=C1)NC(C1=CC=CC=C1)=O | C13H12N2O
